US05424280
Preparation of Benzyl {o-[5-(2,4-dichlorophenoxy)-2-nitrophenoxy]phenoxy}acetate
Benzyl alcohol (0.8 mL, 7.73 mmol) and triethylamine (1 mL, 7.17 mmol) are added to a mixture of {o-[5-(2,4-dichlorophenoxy)-2-nitrophenoxy]phenoxy}acetyl chloride (1.12 g, 2.38 mmol) in tetrahydrofuran. The reaction mixture is stirred for twenty minutes, poured into water and extracted with ether. The combined organic extracts are washed sequentially with one molar hydrochloric acid, water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain an oil. Column chromatography of the oil using silica gel and a hexanes in methylene chloride solution gives the title product as a yellow oil (1.0 g) which is identified by NMR spectral analyses.

reactant | Benzyl alcohol | 7.73 mmol, 0.8 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 7.17 mmol, 1 mL | C(C)N(CC)CC | C6H15N
reactant | {o-[5-(2,4-dichlorophenoxy)-2-nitrophenoxy]phenoxy}acetyl chloride | 2.38 mmol, 1.12 g | ClC1=C(OC=2C=CC(=C(OC3=C(OCC(=O)Cl)C=CC=C3)C2)[N+](=O)[O-])C=CC(=C1)Cl | C20H12Cl3NO6
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Benzyl {o-[5-(2,4-dichlorophenoxy)-2-nitrophenoxy]phenoxy}acetate | 1.0 g | ClC1=C(OC=2C=CC(=C(OC3=C(OCC(=O)OCC4=CC=CC=C4)C=CC=C3)C2)[N+](=O)[O-])C=CC(=C1)Cl | C27H19Cl2NO7
